US04833150
C. 2,6-dimethyl-3-(2-phthalimidocarbethoxy)-4-(3-methylphenyl)-5-carbomethoxy-1,4-dihydropyridine
A solution of 7.0 g (0.25 mol) of 2-phthalimidoethyl acetoacetate and 3.1 g (0.025 mol) of methyl3-aminocrotonate in 150 ml of 2-propanol was refluxed for 15 hours under nitrogen. The solvent was removed in vacuo and the residue was subjected to flash chromatography (silica gel, 1:1 petroleum ether/ethyl acetate). The isolated product was recrystallized in dichloromethane/hexane to give 3.5 g (50%) of a pale yellow solid; m.p. 188°-190° C. NMR: (CDCl3) δ 2.1 (9H,d), 3.5 (3M,s), 3.7 (2H,m), 4.2 (2H,m), 4.6 (1H,s), 5.8 (1H,s), 7.2 (8H,m).

reactant | 2-phthalimidoethyl acetoacetate | 0.25 mol, 7.0 g | C(CC(=O)C)(=O)OCCN1C(C=2C(C1=O)=CC=CC2)=O | C14H13NO5
reactant | methyl3-aminocrotonate | 0.025 mol, 3.1 g | COC(\C=C(\C)/N)=O | C5H9NO2
reactant | 2-propanol | 150 ml | CC(C)O | C3H8O
product | 2,6-dimethyl-3-(2-phthalimidocarbethoxy)-4-(3-methylphenyl)-5-carbomethoxy-1,4-dihydropyridine | 3.5 g, 50% | CC=1NC(=C(C(C1C(=O)OCCN1C(C=2C(C1=O)=CC=CC2)=O)C2=CC(=CC=C2)C)C(=O)OC)C | C27H26N2O6
